US05011927
Preparation of 2-amino-6-(4-chlorophenoxy)-4-fluoropyrimidine (Variant A)
2.52 g (0.038 mol) of 85% sodium hydroxide were dissolved in 50 ml of methanol, 4.9 g (0.0382 mol) of 4-chlorophenol were added, and the mixture was evaporated to dryness. The residue of salt obtained in this way was taken up in 50 ml of N-methyl-2-pyrrolidone and, at 25° C., 5.0 g (0.0382 mol) of 2-amino-4,6-difluoropyrimidine were added, and the mixture was stirred at 140° C. for 4 hours. After the reaction mixture had been cooled to 25° C. it was stirred into 500 ml of water, and the resulting precipitate was isolated. 7.4 g (81% of theory) of the title compound of melting point 223°-226° C. were obtained in this way.

reactant | sodium hydroxide | 0.038 mol, 2.52 g | [OH-].[Na+]
reactant | 4-chlorophenol | 0.0382 mol, 4.9 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-amino-4,6-difluoropyrimidine | 0.0382 mol, 5.0 g | NC1=NC(=CC(=N1)F)F | C4H3F2N3
reactant | water | 500 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | N-methyl-2-pyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2-amino-6-(4-chlorophenoxy)-4-fluoropyrimidine | NC1=NC(=CC(=N1)F)OC1=CC=C(C=C1)Cl | C10H7ClFN3O
